US07745437B2
N-[3-(1H-Imidazol-2-ylamino)-4-methyl-phenyl]-benzamide
A mixture of N-(2,2-diethoxyethyl)carbodiimide (10.38 g, 65.6 mmol), 3-amino-4-methyl-phenyl]-benzamide (7.42 g, 32.8 mmol), methanesulfonic acid (3.20 mL, 49.3 mmol) in ethanol (200 mL) was heated at reflux for 19 h. The reaction mixture was concentrated (No purification was pursued in this step). The residue was dissolved in HCl solution (6N, 30 mL). After stirring for overnight, the reaction mixture was neutralized with 25% NaOH solution at 0° C. to pH=6, then basified with saturated sodium carbonate solution to pH=11. The mixture was stirred for 30 minutes, and extracted with ethanol in CH2Cl2 (100 mL), then 10% ethanol in CH2Cl2 (2×100 mL). The combined organic layers were dried over Na2SO4, filtered, concentrated and dried under vacuum. The residue was triturated in CH2Cl2 (50 mL). The solid was collected by filtration and washed with CH2Cl2, dried to afford the title compound N-[3-(1H-imidazol-2-ylamino)-4-methyl-phenyl]-benzamide as a white solid (4.80 g, 50%). 1H NMR 600 MHz (DMSO-d6) δ 10.79 (s, 1H), 10.11 (s, 1H), 8.00 (d, 1H, J=2.4 Hz), 7.94 (d, 2H, J=7.2 Hz), 7.60 (s, 1H), 7.56 (t, 1H, J=7.2 Hz), 7.49 (t, 2H, J=7.2 Hz), 7.25 (dd, 1H, J=2.4, 8.4 Hz), 7.04 (d, 1H, J=7.8 Hz), 6.80 (br, s, 1H), 6.65 (br, s, 1H), 2.20 (s, 3H), MS m/z 293.4 (M+1).

reactant | N-(2,2-diethoxyethyl)carbodiimide | 65.6 mmol, 10.38 g | C(C)OC(CN=C=N)OCC | C7H14N2O2
reactant | benzamide | 32.8 mmol, 7.42 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | methanesulfonic acid | 49.3 mmol, 3.20 mL | CS(=O)(=O)O | CH4O3S
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-[3-(1H-imidazol-2-ylamino)-4-methyl-phenyl]-benzamide | 4.80 g, 50% | N1C(=NC=C1)NC=1C=C(C=CC1C)NC(C1=CC=CC=C1)=O | C17H16N4O
